US07514571B2
Using 4-amino-1-fluorobicyclo[2,2,2]octane (50.0 mg) and (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile (73.5 mg), the same procedure was followed as in Example 10 to obtain (2S)-1-[[N-(4-fluorobicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (72.3 mg).

reactant | 4-amino-1-fluorobicyclo[2,2,2]octane | 50.0 mg | NC12CCC(CC1)(CC2)F | C8H14FN
reactant | (2S)-1-(2-bromoacetyl)pyrrolidine-2-carbonitrile | 73.5 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
product | (2S)-1-[[N-(4-fluorobicyclo[2,2,2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 72.3 mg | FC12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C15H22FN3O
